2144-02-09 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -O/N became febrile to 101.1 and was pan-cultured.  WBC count this AM
   was 15.1.
   -lactate trended down from 3 to 1.5
   -O/N needed a couple of midaz boluses in addition to propofol for
   agitation secondary to discomfort from tube
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-2-8**] 08:00 PM
   Midazolam (Versed) - [**2144-2-9**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-2-9**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**45**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.1
C (100.6
   HR: 89 (87 - 100) bpm
   BP: 102/48(60) {102/48(60) - 132/77(104)} mmHg
   RR: 22 (0 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    594 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                    594 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                  1,665 mL
   Urine:
                                                                    850 mL
                                                                  1,665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -256 mL
                                                                 -1,337 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: 7.44/34/157/24/0
   Ve: 6.9 L/min
   PaO2 / FiO2: 393
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   12.4 g/dL
   94 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   6 mg/dL
   109 mEq/L
   140 mEq/L
   34.7 %
   15.1 K/uL
        [image002.jpg]
                             [**2144-2-8**]  07:20 PM
                             [**2144-2-9**]  03:13 AM
   WBC
   15.1
   Hct
   34.7
   Plt
   147
   Cr
   0.8
   TCO2
   24
   Glucose
   94
   Other labs: Lactic Acid:1.5 mmol/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   This is a 37 year old female with an unknown past medical history found
   unresponsive in her car after vomiting surrounded by pills with concern
   for suicide attempt with overdose.
   .
   # Unresponsiveness - Likely secondary to whatever medications the
   patient overdosed on and alcohol.  Intubated for airway protection at
   OSH after seizure.  More responsive now; had several episodes of
   agitation overnight requiring propofol as well as midazolam boluses.
   -RSBI this morning was [**Last Name (LF) 13693**], [**First Name3 (LF) **] we can extubate this morning.
   - monitor neurologic exam
   - ativan prn seizure
   .
   # Overdose, suicide attempt - Felt to be a suicide attempt.  Received
   charcoal at the OSH.  Evaluated by toxicology in the ED with concern
   for benadryl overdose and anticholinergic syndrome, though patient no
   longer tachycardic.  Utox and serum tox unrevealing except for alcohol
   (benzos likely secondary to ativan given for seizure at OSH).  Noteably
   negative for acetaminophen and tricyclics.
   - supportive care per toxicology recs
   - serial EKGs to monitor for QRS prolongation today; if no prolongation
   today can stop obtaining EKGs
   - if QTS > 100, [**12-14**] amps NaHCO3, consider gtt prn
   - monitor lytes, trend lactate
   - psychiatry evaluation when extubated and awake
   - CIWA scale when extubated and sedation has worn off
   - will require a sitter when extubated
   -social work consult
   .
   # Fevers - Was febrile O/N to 101.1, also has leukocytosis suggesting
   that underlying infection may be present.  Differential for fevers in
   her includes poor heat regulation secondary to anticholingeric
   toxicity, as well as fevers in the setting of alcohol withdrawal;
   however the accompanying leukocytosis argues for infection.
   -F/u blood cultures, urine cultures from last night
   -CXR this AM; follow up read
   -Trend fever curve and white count
   -Once extubated and after sedation is wearing off monitor for signs of
   withdrawal with CIWA (not currently on this as has been getting
   midazolam and propofol)
   -Consider antibiotic coverage for aspiration pneumonia
   .
   FEN: IVF boluses prn to maintain urine output (rec'd IVF at OSH and 1L
   in [**Hospital1 19**] ED so will hold off on IVF for now), replete electrolytes (K+,
   Mg++), NPO
   .
   Prophylaxis: Subutaneous heparin, bowel regimen
   .
   Access: 2 PIV, 16 & 18 gauge
   .
   Code:  Full
   .
   Communication: Patient. No contact info for family currently available.
   .
   Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2144-2-8**] 05:37 PM
   18 Gauge - [**2144-2-8**] 06:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree Dr. [**Last Name (STitle) 10958**]
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Overnight events notable for T to 101.1, WBC 15.  ~30 min ago was
   extubated.
   Additional history obtained
 took
entire bottle
, history of
   substance abuse
 clean x 6 years.  Fight with boyfriend led to
   drinking then suicide attempt.  Denies drug allergies, other
   significant PMHx or meds.  Denies pain, dypsnea, suicidality currently.
   Tm101.1, P90-100 HR 100-130 Shovel 97%.  I/O ~even
   Awake, alert, responsive.  Soft / hoarse voice.
   Neck supple.  PERRL 6->5.
   RR tachy S1 S2.  CTA B/L.  Abd soft +BS NT.  No edema, no rashes.
   MAE.  Knows [**Hospital3 **] hospital.  Asked about hallucinations, admits
   to seeing some
colors
   Labs notable for WBC.  Lactate down to 1.5.
   EKG no prolonged QTc.
   CXR reviewed - ?retrocardiac atelectasis, unchanged.
   Meds
 SQ heparin
   Agree with plan to continue to monitor in setting of anticholinergic
   toxidrome.  Fever, tachycardia may be due to above or infection; agree
   with sending cultures, most likely source may be aspiration.  Will
   touch base with toxicology today.  Psychiatry consultation and 1:1
   sitter.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2144-2-9**] 11:42 ------

2144-02-10 06:45:00 Physician Resident Progress Note
Chief Complaint: Found unresponsive
   24 Hour Events:
   -Tox recs: obtain repeat EKG. EKG: QTC 421
   -Psychiatry recs: ativan prn anxiety, sw consult, and cannot leave AMA,
   needs 1:1 sitter and if wants to leave needs to be section 12
 EKG - At [**2144-2-9**] 05:00 PM
 FEVER - 101.2
F - [**2144-2-9**] 05:00 PM
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-2-9**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-2-10**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**45**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38
C (100.4
   HR: 103 (87 - 113) bpm
   BP: 117/64(77) {99/45(60) - 142/83(98)} mmHg
   RR: 18 (11 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    947 mL
                                                                    234 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    607 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  3,850 mL
                                                                    560 mL
   Urine:
                                                                  3,850 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,903 mL
                                                                   -326 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   12.8 g/dL
   73 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.2 mEq/L
   9 mg/dL
   105 mEq/L
   140 mEq/L
   36.6 %
   18.5 K/uL
        [image002.jpg]
                             [**2144-2-8**]  07:20 PM
                             [**2144-2-9**]  03:13 AM
                             [**2144-2-10**]  03:30 AM
   WBC
   15.1
   18.5
   Hct
   34.7
   36.6
   Plt
   147
   134
   Cr
   0.8
   0.8
   TCO2
   24
   Glucose
   94
   73
   Other labs: Differential-Neuts:88.6 %, Lymph:7.6 %, Mono:3.4 %, Eos:0.2
   %, Lactic Acid:1.5 mmol/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Micro: (all pending to date)
   [**2144-2-9**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [**2144-2-8**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2144-2-8**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2144-2-8**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2144-2-8**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Imaging:
   CXR [**2144-2-9**]:
   Left basal atelectasis is improved, but there is new opacification on
   the
   right extending from the superior to the posterior basal segment, which
   could
   be atelectasis alone or developing pneumonia. Very small right pleural
   effusion is probably present also, collected along the spine. Upper
   lungs are
   clear. There is no left pleural abnormality and no pneumothorax. Heart
   size
   is normal. ET tube in standard placement, nasogastric tube passes below
   the
   diaphragm and out of view.
   Assessment and Plan
   This is a 37 year old female with an unknown past medical history found
   unresponsive in her car after vomiting surrounded by pills with concern
   for suicide attempt with overdose.
   .
   # Unresponsiveness - Likely secondary to whatever medications the
   patient overdosed on and alcohol.  Intubated for airway protection at
   OSH after seizure.  Now awake, extubated, anxious, getting ativan for
   anxiety.
   - monitor neurologic exam
   - ativan prn seizure
   .
   # Overdose, suicide attempt - Felt to be a suicide attempt.  Received
   charcoal at the OSH.  Evaluated by toxicology in the ED with concern
   for benadryl overdose and anticholinergic syndrome, though patient no
   longer tachycardic.  Utox and serum tox unrevealing except for alcohol
   (benzos likely secondary to ativan given for seizure at OSH).  Noteably
   negative for acetaminophen and tricyclics.
   - supportive care per toxicology recs
   - serial EKGs to monitor for QRS prolongation today; if no prolongation
   today can stop obtaining EKGs
   - monitor lytes, trend lactate
   - psychiatry recs
   - CIWA
   - 1:1 sitter
   -social work consult
   .
   # Fever, worsening leukocytosis - Was febrile O/N to 101.5, also has
   worsening leukocytosis, CXR with ? R infiltrate.  Differential for
   fevers in her includes poor heat regulation secondary to
   anticholingeric toxicity, as well as fevers in the setting of alcohol
   withdrawal; but worsening leukocytosis with CXR change suggests PNA,
   possible aspiration given .  All culture data pending.  U/A
   unremarkable.
   -F/u blood cultures, urine cultures from last night
   -CXR this AM; follow up read
   -Trend fever curve and white count
   -Consider antibiotic coverage for aspiration pneumonia
   .
   FEN: IVF boluses prn to maintain urine output (rec'd IVF at OSH and 1L
   in [**Hospital1 19**] ED so will hold off on IVF for now), replete electrolytes (K+,
   Mg++), NPO
   .
   Prophylaxis: Subutaneous heparin, bowel regimen
   .
   Access: 2 PIV, 16 & 18 gauge
   .
   Code:  Full
   .
   Communication: Patient. No contact info for family currently available.
   .
   Disposition: ICU pending clinical improvement
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 POISONING / OVERDOSE, OTHER
 SUICIDALITY / SUICIDE ATTEMPT
 INEFFECTIVE COPING
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2144-2-8**] 05:37 PM
   18 Gauge - [**2144-2-8**] 06:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-02-10 11:47:00 Physician Attending Progress Note
Chief Complaint: Overdose
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Coughing productively, febrile overnight
   24 Hour Events:
 EKG - At [**2144-2-9**] 05:00 PM
 FEVER - 101.2
F - [**2144-2-9**] 05:00 PM
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2144-2-9**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2144-2-10**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**45**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.8
C (100
   HR: 107 (90 - 111) bpm
   BP: 122/68(80) {99/45(60) - 142/83(98)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    947 mL
                                                                    416 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    607 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  3,850 mL
                                                                    560 mL
   Urine:
                                                                  3,850 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,903 mL
                                                                   -144 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ,
   No(t) Hyperresonant: , No(t) Dullness : ), (Breath Sounds: No(t) Clear
   : , Crackles : few at R base, No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   No(t) Distended, No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.8 g/dL
   134 K/uL
   73 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.2 mEq/L
   9 mg/dL
   105 mEq/L
   140 mEq/L
   36.6 %
   18.5 K/uL
        [image002.jpg]
                             [**2144-2-8**]  07:20 PM
                             [**2144-2-9**]  03:13 AM
                             [**2144-2-10**]  03:30 AM
   WBC
   15.1
   18.5
   Hct
   34.7
   36.6
   Plt
   147
   134
   Cr
   0.8
   0.8
   TCO2
   24
   Glucose
   94
   73
   Other labs: Differential-Neuts:88.6 %, Lymph:7.6 %, Mono:3.4 %, Eos:0.2
   %, Lactic Acid:1.5 mmol/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 POISONING / OVERDOSE, OTHER
 SUICIDALITY / SUICIDE ATTEMPT
 INEFFECTIVE COPING
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   CXR, WBC and sx suggest PNA. Only intubated for < 24 hrs but has GPC in
   sputum. Will cover with clinda for possible community acquired MRSA and
   anaerobes.  Psyche is following - will need in-patient hospitalization
   when medically clear
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:
   Lines:
   16 Gauge - [**2144-2-8**] 05:37 PM
   18 Gauge - [**2144-2-8**] 06:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes